US05705662
To a solution of 6.05 g of 17β-12-(1,3-dioxolanyl)]-5β-androstan-3β,14β-diol in 80 ml of dry tetrahydrofuran. 5.80 g of sodium hydride (60% dispersion in mineral oil) were added under nitrogen atmosphere at room temperature and the resulting mixture was stirred at reflux temperature for 6 hrs. Alter cooling. 18.0 g of allyl bromide were added and the reflux continued for further 20 hrs. The mixture was quenched with water and the organic solvent was distilled under reduced pressure. The residue was extracted with ethyl acetate; the organic solution was dried over anhydrous sodium sulfate and evaporated to dryness. The residue was purified by flash-chromatography using n-hexane/ethyl acetate 80/20 as the eluant to give 5.20 g of 3β-prop-(2-en)oxy-17β-(1,3-dioxolanyl)]-5β-androstan-14β-ol as a white solid.

reactant | 5β-androstan-3β,14β-diol | C[C@@]12CCC[C@@]1([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C19H32O2
reactant | sodium hydride | 5.80 g | [H-].[Na+]
reactant | allyl bromide | 18.0 g | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5β-androstan-14β-ol | C[C@@]12CCC[C@@]1([C@@H]1CC[C@@H]3CCCC[C@]3(C)[C@H]1CC2)O | C19H32O
